US07354932B2
Preparation of (1-allyl-1H-benzoimidazol-2-yl)-methanol
To a solution of (1H-benzoimidazol-2-yl)-methanol (501 mg, 3.38 mmol) and allyl bromide (0.29 mL, 3.38 mmol) in DMF (15 mL) was added N,N-diisopropylethylamine (0.71 mL, 4.06 mmol). The reaction mixture was stirred at 60° C. overnight. Then the mixture was cooled to room temperature and quenched with saturated NaHCO3 (25 mL). Then it was extracted with CH2Cl2 (3×25 mL). The combined organic layer was washed with brine (2×25 mL), dried (MgSO4), filtered, concentrated, and dried in vacuo to afford a brown oil. Purification by flash column chromatography on silica gel using 2% CH3OH/CH2Cl2 afforded the product as a yellow oil (180 mg, 28%). 1H NMR (CDCl3) δ 4.85 (br s, 5H), 4.98 (d, 1H, J=17.1 Hz), 5.17 (d, 1H, J=10.5 Hz), 5.88-6.01 (in, 1H), 7.20-7.26 (m, 3H), 7.66 (t, 1H, J=3.9 Hz).

reactant | (1H-benzoimidazol-2-yl)-methanol | 3.38 mmol, 501 mg | N1C(=NC2=C1C=CC=C2)CO | C8H8N2O
reactant | allyl bromide | 3.38 mmol, 0.29 mL | C(C=C)Br | C3H5Br
reactant | N,N-diisopropylethylamine | 4.06 mmol, 0.71 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (1-allyl-1H-benzoimidazol-2-yl)-methanol | 180 mg, 28% | C(C=C)N1C(=NC2=C1C=CC=C2)CO | C11H12N2O
